US07462639B2
3-Cyano-N-[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-benzamide
3-Cyano-N-[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-benzamide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and 3-cyano-benzoyl chloride (146 mg, 0.89 mmol). The title compound was obtained as light brown powder (90 mg, 25%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | 3-cyano-benzoyl chloride | 0.89 mmol, 146 mg | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
product | 3-Cyano-N-[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-benzamide | C(#N)C=1C=C(C(=O)NC=2C(=NNC2)C2=NC=3C(=CC=4C(C(N(C4C3)CC)=O)(C)C)N2)C=CC1 | C24H21N7O2
